US07723336B2
p-Phenetidine (0.38 ml, 2.9 mmol) and triethylamine (0.8 ml, 5.8 mmol) were added to a mixture of 3,8-dibromo-6-chloroimidazo[1,2-b]pyridazine (0.83 g, 2.67 mmol) from 1a in EtOH (10 mL). The mixture was heated to 80° C. and stirred for 16 hrs. The solution was then concentrated in vacuo to give crude 3-bromo-6-chloro-N-(4-ethoxyphenyl)imidazo[1,2-b]pyridazin-8-amine.

reactant | p-Phenetidine | 2.9 mmol, 0.38 ml | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | triethylamine | 5.8 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3,8-dibromo-6-chloroimidazo[1,2-b]pyridazine | 2.67 mmol, 0.83 g | BrC1=CN=C2N1N=C(C=C2Br)Cl | C6H2Br2ClN3
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-bromo-6-chloro-N-(4-ethoxyphenyl)imidazo[1,2-b]pyridazin-8-amine | BrC1=CN=C2N1N=C(C=C2NC2=CC=C(C=C2)OCC)Cl | C14H12BrClN4O
